US09034311B2
a) 2,6-Dichloro-N-[(1S)-1-(5-fluoropyridin-2-yl)ethyl]pyrimidin-4-amine
(S)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride (prepared as described in WO2006/123113, 1.05 g, 4.91 mmol) and N,N′-diisopropylethylamine (2.80 mL, 16.36 mmol) were added to a solution of 2,4,6-trichloropyrimidine (0.75 g, 4.09 mmol) in ethanol (15 mL) and the resulting mixture was stirred and heated to 80° C. in a sealed tube for 1 hour. After cooling to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate (×3). The combined organic layers were washed with water and brine, dried (MgSO4), filtered and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography (hexanes to 1:1 hexanes/ethyl acetate) to give the title compound (0.66 g, 57%) as a white solid.

reactant | (S)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride | 4.91 mmol, 1.05 g | Cl.FC=1C=CC(=NC1)[C@H](C)N
reactant | N,N′-diisopropylethylamine | 16.36 mmol, 2.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4,6-trichloropyrimidine | 4.09 mmol, 0.75 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | water | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2,6-Dichloro-N-[(1S)-1-(5-fluoropyridin-2-yl)ethyl]pyrimidin-4-amine | 0.66 g, 57% | ClC1=NC(=CC(=N1)N[C@@H](C)C1=NC=C(C=C1)F)Cl | C11H9Cl2FN4
